US07238808B2
3-[5-(3,4-Dichloro-phenyl)-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidin-3-ylethynyl]-benzenesulfonamide
The title compound was prepared from 5-(3,4-dichloro-phenyl)-3-ethynyl-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidine (example C.9) (89 mg, 0.25 mmol) and 3-bromo-benzenesulfonamide (59 mg, 0.25 mmol) according to general procedure II. Obtained as a yellow solid (13 mg, 10%). MS (ISP) 511.5 [(M+H)+]; mp 230–231° C.

reactant | 5-(3,4-dichloro-phenyl)-3-ethynyl-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidine | 0.25 mmol, 89 mg | ClC=1C=C(C=CC1Cl)C1=NC=2N(C(=C1)C(F)(F)F)N=CC2C#C | C15H6Cl2F3N3
reactant | 3-bromo-benzenesulfonamide | 0.25 mmol, 59 mg | BrC=1C=C(C=CC1)S(=O)(=O)N | C6H6BrNO2S
product | 3-[5-(3,4-Dichloro-phenyl)-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidin-3-ylethynyl]-benzenesulfonamide | ClC=1C=C(C=CC1Cl)C1=NC=2N(C(=C1)C(F)(F)F)N=CC2C#CC=2C=C(C=CC2)S(=O)(=O)N | C21H11Cl2F3N4O2S
